US04245098
Hydrogen chloride is passed into a solution of 25.0 g (0.125 mol) of 2,4,4-trichloro-4-formylbutyronitrile in 50 mml of N,N-dimethylformamide at a rate such that the temperature of the reaction mixture does not exceed 120° C. After completion of the reaction, the reaction mixture is poured into ice water. The beige-coloured precipitate is filtered off and dried. There is obtained 15.1 g (66% of theory) of 2,3,5-trichloropyridine, m.p. 48°-50° C.

reactant | Hydrogen chloride | Cl | ClH
reactant | 2,4,4-trichloro-4-formylbutyronitrile | 0.125 mol, 25.0 g | ClC(C#N)CC(C=O)(Cl)Cl | C5H4Cl3NO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2,3,5-trichloropyridine | 15.1 g, 66% | ClC1=NC=C(C=C1Cl)Cl | C5H2Cl3N
